US06414148B1
Diethyl azodicarboxylate (236 μl, 1.5 mmol) was added dropwise to a mixture of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (182 mg, 0.5 mmol), (prepared as described for the starting material in Example 48), triphenylphosphine (393 mg, 1.5 mmol) and 2-(2-methoxyethoxy)ethanol (84 μl, 0.7 mmol) in methylene chloride (7 ml) under nitrogen. The mixture was stirred for 4 hours at ambient temperature, the reaction mixture was purified by pouring it directly on to a column of silica and eluting with ethyl acetate/petroleum ether (9/1 followed by 10/0). The purified product was triturated with ether and collected by filtration. The solid was dissolved in methylene chloride/methanol and 2M ethereal hydrogen chloride (1 ml) was added. The mixture was concentrated by evaporation and the precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline hydrochloride (84 mg, 34%).

reactant | Diethyl azodicarboxylate | 1.5 mmol, 236 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.5 mmol, 182 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-methoxyethoxy)ethanol | 0.7 mmol, 84 μl | COCCOCCO | C5H12O3
reactant | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline hydrochloride | 84 mg, 34% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOCCOC)C=C1)F | InChI=1S/C20H21BrFN3O4.ClH/c1-26-5-6-28-7-8-29-19-11-17-14(10-18(19)27-2)20(24-12-23-17)25-16-4-3-13(21)9-15(16)22;/h3-4,9-12H,5-8H2,1-2H3,(H,23,24,25);1H
